US04354030
To a solution of 1.0 gram of 3-[5-(1,1-dimethylethyl)-3-isoxazolyl]-4,5-dihydroxy-1-methyl-2-imidazolidinone in 20 ml. of anhydrous acetone were added three drops of 70% perchloric acid. The reaction mixture stood at ambient temperature for sixteen hours, and then was diluted with 100 ml. of water. The white crystalline precipitate was collected by filtration and recrystallized from diethyl ether and hexane to afford 3-[5-(1,1-dimethylethyl)-3-isoxazolyl]4,5-dihydroxy-1-methyl-2-imidazolidinone acetonide. M.P. 157°-159° C. Mass Spectrum M+Theory 295; Found 295.

reactant | 3-[5-(1,1-dimethylethyl)-3-isoxazolyl]-4,5-dihydroxy-1-methyl-2-imidazolidinone | 1.0 gram | CC(C)(C)C1=CC(=NO1)N1C(N(C(C1O)O)C)=O | C11H17N3O4
reactant | acetone | CC(=O)C | C3H6O
catalyst | perchloric acid | three drops | Cl(=O)(=O)(=O)O | ClHO4
solvent | water | O | H2O
product | 3-[5-(1,1-dimethylethyl)-3-isoxazolyl]4,5-dihydroxy-1-methyl-2-imidazolidinone acetonide | [CH2-]C(=O)C.CC(C)(C)C1=CC(=NO1)N1C(N(C(C1O)O)C)=O | InChI=1S/C11H17N3O4.C3H5O/c1-11(2,3)6-5-7(12-18-6)14-9(16)8(15)13(4)10(14)17;1-3(2)4/h5,8-9,15-16H,1-4H3;1H2,2H3/q;-1
